US07745641B2
In a similar manner to Step 2 of Example 440, 4-chloro-5-(3-chloropropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (90.6 mg, 0.158 mmol) was dissolved in N,N-dimethylacetoamide (0.9 mL), and the solution was treated with 2-amino-2-methyl-1-propanol (0.159 mL, 1.58 mmol). The reaction mixture was added with water. The obtained solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 4-chloro-5-[3-(1-hydroxy-2-methyl-2-propylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (37.7 mg, yield 38%).

reactant | 4-chloro-5-(3-chloropropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.158 mmol, 90.6 mg | ClC1=C2CNC(C2=C(C=C1OCCCCl)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C30H35Cl2N3O4
reactant | 2-amino-2-methyl-1-propanol | 1.58 mmol, 0.159 mL | NC(CO)(C)C | C4H11NO
reactant | water | O | H2O
solvent | N,N-dimethylacetoamide | 0.9 mL | CN(C(C)=O)C | C4H9NO
product | 4-chloro-5-[3-(1-hydroxy-2-methyl-2-propylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 37.7 mg, yield 38% | ClC1=C2CNC(C2=C(C=C1OCCCNC(CO)(C)C)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C34H45ClN4O5
